US09371320B2
F) 1-benzyl-4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine
To a mixture of 1-benzyl-3-iodo-4-methoxy-1H-pyrazolo[4,3-c]pyridine (0.75 g), 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)morpholine (0.60 g) and sodium carbonate (0.44 g) in DME/water (6 mL/3 mL) was added dichloro(1,1′-bis(diphenylphosphino)ferrocene)palladium(II) (73 mg) under nitrogen atmosphere. The reaction mixture was stirred overnight at 85° C. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (0.72 g).

reactant | 1-benzyl-3-iodo-4-methoxy-1H-pyrazolo[4,3-c]pyridine | 0.75 g | C(C1=CC=CC=C1)N1N=C(C=2C(=NC=CC21)OC)I | C14H12IN3O
reactant | 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)morpholine | 0.60 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCOCC1)C | C16H24BNO3
reactant | sodium carbonate | 0.44 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DME water | 6 mL | COCCOC.O
product | 1-benzyl-4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 0.72 g | C(C1=CC=CC=C1)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)N2CCOCC2 | C24H24N4O2
